US05089499
Using the process described in Example 5, p-[N-(3,4-dihydro-2-methyl-4-oxoquinazolin-6-ylmethyl)-N-ethylamino]benzoyl azide was reacted with (1-benzylimidazol-2-yl)methylamine to give N-(1-benzylimidazol-2-yl)methyl-p-[N-(3,4-dihydro-2-methyl-4-oxoquinazolin-6-ylmethyl)-N-ethylamino]benzamide (containing 1.3 equivalents of water) in 21% yield, m.p. 217°-221° C.

reactant | p-[N-(3,4-dihydro-2-methyl-4-oxoquinazolin-6-ylmethyl)-N-ethylamino]benzoyl azide | CC1=NC2=CC=C(C=C2C(N1)=O)CN(CC)C1=CC=C(C(=O)N=[N+]=[N-])C=C1 | C19H18N6O2
reactant | (1-benzylimidazol-2-yl)methylamine | C(C1=CC=CC=C1)N1C(=NC=C1)CN | C11H13N3
product | N-(1-benzylimidazol-2-yl)methyl-p-[N-(3,4-dihydro-2-methyl-4-oxoquinazolin-6-ylmethyl)-N-ethylamino]benzamide | 1.3 equivalents, 21% yield | C(C1=CC=CC=C1)N1C(=NC=C1)CNC(C1=CC=C(C=C1)N(CC)CC=1C=C2C(NC(=NC2=CC1)C)=O)=O | C30H30N6O2
